US08008296B2
4-(4-Methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester
To a stirring solution of 4-amino-benzoic acid methyl ester (0.594 g, 3.93 mmol) in a mixture of dichloromethane (15 mL)/pyridine (15 mL) is added 4-methanesulfonyl benzenesulfonyl chloride (1.0 g, 3.93 mmol) and the mixture is allowed to react for 6 h at ambient temperature. The reaction is diluted with ethyl acetate and washed with 1N HCl. The organic layer is separated and dried over sodium sulfate, filtered, and concentrated to give 1.26 g (87%) of the title compound. MS (ES−) (m/e) 368.0 (M−1)−.

reactant | 4-amino-benzoic acid methyl ester | 3.93 mmol, 0.594 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-methanesulfonyl benzenesulfonyl chloride | 3.93 mmol, 1.0 g | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester | 1.26 g, 87% | COC(C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)=O | C15H15NO6S2
